****************************************************************************
*
* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*
****************************************************************************
****         
****  TS507  Spice macromodel subckt
****  September 2007
****                      
************ CONNECTIONS: 
****             INVERTING INPUT
****              |  NON-INVERTING INPUT
****              |   |  OUTPUT 
****              |   |   |  POSITIVE POWER SUPPLY
****              |   |   |   |  NEGATIVE POWER SUPPLY
****              |   |   |   |   | 
****              |   |   |   |   | 
.SUBCKT  TS507   VM  VP  VS  VCCP VCCN
    F_DYNSUPPLY NET0106 0 VREADIO 1.0
    M_NMOS2 VO_DIFF_PLUS VM VEE_N VCCN_ENHANCED MOS_N L=1E-6 W=11E-6
    M_NMOS1 VO_DIFF_MINUS NET0158 VEE_N VCCN_ENHANCED MOS_N L=1E-6 W=11E-6
    IEE_N VEE_N VCCN_ENHANCED DC 14.3E-6
    HILIM_ICCN NET0230 0 POLY(1) V_OUTVLIM_LOW -31.1 5000
    HILIM_ICCP NET0255 0 POLY(1) V_OUTVLIM_HIGH 31.1 -5000
    VVLIM_LOW_VB NET0110 NET0109 DC 770m
    VOS NET0158 VP DC 0
    VPROT_IN_P_VCCP NET0123 NET0134 DC 0.6
    V_ENHANCE_VCCN VCCN_ENHANCED VCCN DC -360m
    VREADIO NET0271 VS DC 0
    VVLIM_HIGH_VB NET0132 NET0153 DC 770m
    V_ENHANCE_VCCP VCCP_ENHANCED VCCP DC -500m
    EVLIM_HIGH_VOUT NET0131 0 VCCP 0 1.0
    EVLIM_LOW_VOUT NET0224 0 VCCN 0 1.0
    V_OUTVLIM_LOW NET0224 NET125 DC -770m
    VPROT_IN_M_VCCN NET0116 NET0192 DC 0.6
    V_OUTVLIM_HIGH NET0201 NET0131 DC -770m
    VPROT_IN_P_VCCN NET0115 NET096 DC 0.6
    VPROT_IN_M_VCCP NET0190 NET0135 DC 0.6
    DVLIM_HIGH_VB VB NET0153 DIODE_VLIM
    DPROT_IN_M_VCCP VM NET0135 DIODE_VLIM
    DVLIM_LOW_VB NET0110 VB DIODE_VLIM
    D_VCCP_DYNSUPPLY NET0148 NET0106 DX
    DPROT_IN_M_VCCN NET0116 VM DIODE_VLIM
    DILIM_SINK NET171 VB_3 DIODE_ILIM
    D_OUTVLIM_LOW NET125 VB_3 DIODE_VLIM
    DPROT_IN_P_VCCP NET0158 NET0134 DIODE_VLIM
    DILIM_SOURCE VB_3 NET175 DIODE_ILIM
    D_VCCN_DYNSUPPLY NET0106 NET0151 DX
    DILIM_ICCP VB_3 NET142 DIODE_ILIM
    DILIM_ICCN NET0124 VB_3 DIODE_ILIM
    DPROT_IN_P_VCCN NET0115 NET0158 DIODE_VLIM
    D_OUTVLIM_HIGH VB_3 NET0201 DIODE_VLIM
    CGATE_VP_PARASITIC VP VREF 7p
    CCOMP VB VB_2 22e-12
    CBD2_PARASITIC VO_DIFF_PLUS VCCN_ENHANCED 15p
    CGD2_PARASITIC VO_DIFF_PLUS VM 300f
    CBD1_PARASITIC VO_DIFF_MINUS VCCN_ENHANCED 15p
    CDIFF_PARASITIC VO_DIFF_MINUS VO_DIFF_PLUS 30p
    CGATE_VM_PARASITIC VM VREF 7p
    CGD1_PARASITIC VO_DIFF_MINUS NET0158 300f
    E_DEPOLARIZ_SINK NET112 0 VALUE={ (198.5306905368759
+-111.63682864437875*V(Vccp,Vccn)
+-6.393861892600456*V(Vccp,Vccn)*V(Vccp,Vccn) ) -5000*I(VreadIo)}
    EVLIM_HIGH_VB NET0132 0 VCCP 0 1.0
    EVLIM_LOW_VB NET0109 0 VCCN 0 1.0
    EILIM_ICCN NET0124 NET0230 VB_3 0 1.0
    E2_REF NET0238 0 VCCN 0 1.0
    E_DEPOLARIZ_SOURCE NET110 0 VALUE={ (-155.57672634242113 +
+79.09207161106947*V(Vccp,Vccn) +
+15.984654731486176*V(Vccp,Vccn)*V(Vccp,Vccn) )  -5000*I(VreadIo)}
    EILIM_SINK NET171 NET112 VB_3 0 1.0
    EILIM_SOURCE NET175 NET110 VB_3 0 1.0
    E_VREF VREF 0 NET0250 0 1.0
    E1_REF NET0210 0 VCCP 0 1.0
    EILIM_ICCP NET142 NET0255 VB_3 0 1.0
    RO2_2 VB_3 VB_2 1E-3
    R_VCCN_DYNSUPPLY VCCN NET0151 500K
    RPROT_IN_P_VCCP NET0123 VCCP 15K
    RPROT_IN_M_VCCP VCCP NET0190 15K
    RD1 VCCP_ENHANCED VO_DIFF_MINUS 1K
    RD2 VCCP_ENHANCED VO_DIFF_PLUS 1K
    RO2_1 VREF VB_2 {1.1766E4 - 1E-3 - 16}
    R1_REF NET0210 NET0250 1Meg
    R1 VB VREF {6.88303688E6/(0.0002807210724691585*11E-3*(1.1766E4 - 1E-3 - 16))}
    R_VCCP_DYNSUPPLY NET0148 VCCP 500K
    RO1 VB_3 NET0271 16
    RPROT_IN_M_VCCN VCCN NET0192 15K
    R2_REF NET0250 NET0238 1Meg
    RPROT_IN_P_VCCN NET096 VCCN 15K
    G_I_VB VB_2 VREF POLY(1) VB VREF 1.6621383413442551E-18
+0.01133539334071609 -3.3517913495063166E-18 -0.005800078402559925
+-7.812093225731356E-19 0.018655131759160958
    GM1 VREF VB VO_DIFF_MINUS VO_DIFF_PLUS {1/1000}
    G_ICC VCCP VCCN POLY(1) VCCP VCCN 6.477204603580559E-4
+5.890878090366602E-5 -4.262574595055444E-6
.MODEL MOS_N  NMOS LEVEL=1 VTO=+0.65  KP=500E-6 
.MODEL DIODE_VLIM D LEVEL=1 IS=0.8E-15 
.MODEL DIODE_ILIM D LEVEL=1 IS=0.8E-15 
.MODEL DX D LEVEL=1 IS=1E-14 

.ENDS


*********************************************************************************** 

* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation 
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within 
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating 
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*
****************************************************************************
****
****  TSV91X  Spice macromodel subckt
****  July 2007
****                      
************ CONNECTIONS:   
****                     INVERTING INPUT
****                      |  NON-INVERTING INPUT
****                      |   |  OUTPUT 
****                      |   |   |  POSITIVE POWER SUPPLY
****                      |   |   |   |  NEGATIVE POWER SUPPLY
****                      |   |   |   |   | 
****                      |   |   |   |   | 
.SUBCKT TSV91X VM  VP  VS VCCP VCCN
    F_DYNSUPPLY NET0106 0 VREADIO 1.0
    M_NMOS2 VO_DIFF_PLUS VM VEE_N VCCN_ENHANCED MOS_N L=2u W=20u
    M_NMOS1 VO_DIFF_MINUS NET0158 VEE_N VCCN_ENHANCED MOS_N L=2u W=20u
    IEE_N VEE_N VCCN_ENHANCED DC 41.65E-6
    HILIM_SINK NET112 0 POLY(1) VREADIO -159.50000000000352 -5000.00000000011
    HILIM_SOURCE NET110 0 POLY(1) VREADIO 174.50000000000077 -5000.000000000023
    HILIM_ICCN 0 NET168 V_OUTVLIM_LOW 235 
    HILIM_ICCP 0 NET180 V_OUTVLIM_HIGH -235
    VVLIM_LOW_VB NET0110 NET0109 DC 770m
    VOS NET0158 VP DC 157u
    VPROT_IN_P_VCCP NET0123 NET0134 DC 0.6
    V_ENHANCE_VCCN VCCN_ENHANCED VCCN DC -360m
    VREADIO NET0217 VS DC 0
    VVLIM_HIGH_VB NET0132 NET0153 DC 770m
    V_ENHANCE_VCCP VCCP_ENHANCED VCCP DC -500m
    V_OUTVLIM_LOW NET125 VCCN DC 770m
    VPROT_IN_M_VCCN NET0116 NET0192 DC 0.6
    V_OUTVLIM_HIGH VCCP NET0177 DC 770m
    VPROT_IN_P_VCCN NET0115 NET096 DC 0.6
    VPROT_IN_M_VCCP NET0190 NET0135 DC 0.6
    DVLIM_HIGH_VB VB NET0153 DIODE_VLIM
    DPROT_IN_M_VCCP VM NET0135 DIODE_VLIM
    DVLIM_LOW_VB NET0110 VB DIODE_VLIM
    D_VCCP_DYNSUPPLY NET0148 NET0106 DX
    DPROT_IN_M_VCCN NET0116 VM DIODE_VLIM
    DILIM_SINK NET171 VB_3 DIODE_ILIM
    D_OUTVLIM_LOW NET125 VB_3 DIODE_VLIM
    DPROT_IN_P_VCCP NET0158 NET0134 DIODE_VLIM
    DILIM_SOURCE VB_3 NET175 DIODE_ILIM
    D_VCCN_DYNSUPPLY NET0106 NET0151 DX
    DILIM_ICCP VB_3 NET142 DIODE_ILIM
    DILIM_ICCN NET143 VB_3 DIODE_ILIM
    DPROT_IN_P_VCCN NET0115 NET0158 DIODE_VLIM
    D_OUTVLIM_HIGH VB_3 NET0177 DIODE_VLIM
    CCOMP VB VB_2 8.5p
    CBD2_PARASITIC VO_DIFF_PLUS VCCN_ENHANCED 7p
    CGD2_PARASITIC VO_DIFF_PLUS VM 300.0f
    CBD1_PARASITIC VO_DIFF_MINUS VCCN_ENHANCED 7p
    CDIFF_PARASITIC VO_DIFF_MINUS VO_DIFF_PLUS 200.0f
    CGD1_PARASITIC VO_DIFF_MINUS NET0158 300.0f
    CGATE_VM_PARASITIC VM VREF 7p
    CGATE_VP_PARASITIC VP VREF 7p
    E_VREF VREF 0 NET0250 0 1.0
    E2_REF NET0238 0 VCCN 0 1.0
    E1_REF NET0210 0 VCCP 0 1.0
    EVLIM_HIGH_VB NET0132 0 VCCP 0 1.0
    EVLIM_LOW_VB NET0109 0 VCCN 0 1.0
    EILIM_ICCN NET143 NET168 VB_3 0 1.0
    EILIM_SINK NET171 NET112 VB_3 0 1.0
    EILIM_SOURCE NET175 NET110 VB_3 0 1.0
    EILIM_ICCP NET142 NET180 VB_3 0 1.0
    R1_REF NET0210 NET0250 1Meg
    R2_REF NET0250 NET0238 1Meg
    RO2_2 VB_3 VB_2 1E-3
    R_VCCN_DYNSUPPLY VCCN NET0151 500K
    RPROT_IN_P_VCCP NET0123 VCCP 1K
    RPROT_IN_M_VCCP VCCP NET0190 1K
    RD1 VCCP_ENHANCED VO_DIFF_MINUS 1K
    RD2 VCCP_ENHANCED VO_DIFF_PLUS 1K
    RO2_1 VREF VB_2 {17587.2 - 1E-3 - 7}
    R1 VB VREF {97.93103448E3/(0.0004565941678681337*11E-3*(17587.2 - 1E-3 - 7))}
    R_VCCP_DYNSUPPLY NET0148 VCCP 500K
    RO1 VB_3 NET0217 7
    RPROT_IN_M_VCCN VCCN NET0192 15K
    RPROT_IN_P_VCCN NET096 VCCN 15K
    G_I_VB VB_2 VREF POLY(1) VB VREF 7.773528173127232E-19
+0.010310813241023556 0 0.1401392933601382
    GM1 VREF VB VO_DIFF_MINUS VO_DIFF_PLUS {1/1000}
    G_ICC VCCP VCCN POLY(1) VCCP VCCN +6.321735294117647E-4 +5.570588235294106E-5
+ -5.294117647058808E-6 

.MODEL MOS_N  NMOS LEVEL=1 VTO=+0.65  KP=500E-6 
.MODEL DIODE_VLIM D LEVEL=1 IS=0.8E-15 
.MODEL DIODE_ILIM D LEVEL=1 IS=0.8E-15  
.MODEL DX D LEVEL=1 IS=1E-14   
.ENDS



****************************************************************************
* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation 
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within 
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating 
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*
****************************************************************************
****
****  TSV99X  Spice macromodel subckt
****  July 2007
****                      
************ CONNECTIONS: 
****                     INVERTING INPUT
****                      |  NON-INVERTING INPUT
****                      |   |  OUTPUT 
****                      |   |   |  POSITIVE POWER SUPPLY
****                      |   |   |   |  NEGATIVE POWER SUPPLY
****                      |   |   |   |   | 
****                      |   |   |   |   | 
.SUBCKT TSV99X VM  VP  VS VCCP VCCN
    F_DYNSUPPLY NET0106 0 VREADIO 1.0
    M_NMOS2 VO_DIFF_PLUS VM VEE_N VCCN_ENHANCED MOS_N L=2u W=25u
    M_NMOS1 VO_DIFF_MINUS NET0158 VEE_N VCCN_ENHANCED MOS_N L=2u W=25u
    IEE_N VEE_N VCCN_ENHANCED DC 35.8e-6
    HILIM_SINK NET112 0 POLY(1) VREADIO -159.50000000000352 -5000.00000000011
    HILIM_SOURCE NET110 0 POLY(1) VREADIO 174.50000000000077 -5000.000000000023
    HILIM_ICCN 0 NET168 V_OUTVLIM_LOW 235 
    HILIM_ICCP 0 NET180 V_OUTVLIM_HIGH -235
    VVLIM_LOW_VB NET0110 NET0109 DC 770m
    VOS NET0158 VP DC 157u
    VPROT_IN_P_VCCP NET0123 NET0134 DC 0.6
    V_ENHANCE_VCCN VCCN_ENHANCED VCCN DC -360m
    VREADIO NET0217 VS DC 0
    VVLIM_HIGH_VB NET0132 NET0153 DC 770m
    V_ENHANCE_VCCP VCCP_ENHANCED VCCP DC -500m
    V_OUTVLIM_LOW NET125 VCCN DC 770m
    VPROT_IN_M_VCCN NET0116 NET0192 DC 0.6
    V_OUTVLIM_HIGH VCCP NET0177 DC 770m
    VPROT_IN_P_VCCN NET0115 NET096 DC 0.6
    VPROT_IN_M_VCCP NET0190 NET0135 DC 0.6
    DVLIM_HIGH_VB VB NET0153 DIODE_VLIM
    DPROT_IN_M_VCCP VM NET0135 DIODE_VLIM
    DVLIM_LOW_VB NET0110 VB DIODE_VLIM
    D_VCCP_DYNSUPPLY NET0148 NET0106 DX
    DPROT_IN_M_VCCN NET0116 VM DIODE_VLIM
    DILIM_SINK NET171 VB_3 DIODE_ILIM
    D_OUTVLIM_LOW NET125 VB_3 DIODE_VLIM
    DPROT_IN_P_VCCP NET0158 NET0134 DIODE_VLIM
    DILIM_SOURCE VB_3 NET175 DIODE_ILIM
    D_VCCN_DYNSUPPLY NET0106 NET0151 DX
    DILIM_ICCP VB_3 NET142 DIODE_ILIM
    DILIM_ICCN NET143 VB_3 DIODE_ILIM
    DPROT_IN_P_VCCN NET0115 NET0158 DIODE_VLIM
    D_OUTVLIM_HIGH VB_3 NET0177 DIODE_VLIM
    CDIFF_PARASITIC VO_DIFF_MINUS VO_DIFF_PLUS 200.0f
    CGATE_VM_PARASITIC VM VREF 7p
    CGATE_VP_PARASITIC VP VREF 7p
    CCOMP VB VB_2 3.4e-12
    CBD2_PARASITIC VO_DIFF_PLUS VCCN_ENHANCED 7p
    CGD2_PARASITIC VO_DIFF_PLUS VM 200.0f
    CBD1_PARASITIC VO_DIFF_MINUS VCCN_ENHANCED 7p
    CGD1_PARASITIC VO_DIFF_MINUS NET0158 200.0f
    EVLIM_HIGH_VB NET0132 0 VCCP 0 1.0
    EVLIM_LOW_VB NET0109 0 VCCN 0 1.0
    EILIM_ICCN NET143 NET168 VB_3 0 1.0
    E2_REF NET0238 0 VCCN 0 1.0
    EILIM_SINK NET171 NET112 VB_3 0 1.0
    EILIM_SOURCE NET175 NET110 VB_3 0 1.0
    E_VREF VREF 0 NET0250 0 1.0
    E1_REF NET0210 0 VCCP 0 1.0
    EILIM_ICCP NET142 NET180 VB_3 0 1.0
    RO2_2 VB_3 VB_2 1e-3
    R_VCCN_DYNSUPPLY VCCN NET0151 500K
    RPROT_IN_P_VCCP NET0123 VCCP 1K
    RPROT_IN_M_VCCP VCCP NET0190 1K
    RD1 VCCP_ENHANCED VO_DIFF_MINUS 1K
    RD2 VCCP_ENHANCED VO_DIFF_PLUS 1K
    RO2_1 VREF VB_2 {17587.2 - 1e-3 - 7}
    R1_REF NET0210 NET0250 1Meg
    R1 VB VREF {97.93103448E3/(0.0004733346976081021*11e-3*(17587.2 - 1e-3 - 7))}
    R_VCCP_DYNSUPPLY NET0148 VCCP 500K
    RO1 VB_3 NET0217 7
    RPROT_IN_M_VCCN VCCN NET0192 15K
    R2_REF NET0250 NET0238 1Meg
    RPROT_IN_P_VCCN NET096 VCCN 15K
    G_I_VB VB_2 VREF POLY(1) VB VREF 2.87743722009713E-19
+0.009905078167945973 1.2798650684090994E-18 0.14077324405733083
    GM1 VREF VB VO_DIFF_MINUS VO_DIFF_PLUS {1/1000}
    G_ICC VCCP VCCN POLY(1) VCCP VCCN 6.380235294117639E-4
+5.570588235294159E-5 -5.294117647058884E-6
.MODEL MOS_N  NMOS LEVEL=1 VTO=+0.65  KP=500E-6 
.MODEL DIODE_VLIM D LEVEL=1 IS=0.8E-15   
.MODEL DIODE_ILIM D LEVEL=1 IS=0.8E-15  
.MODEL DX D LEVEL=1 IS=1E-14 
.ENDS



*********************************************************************************** 
